US07585885B2
3,5-Bis(methyl-propylcarbamoyl)-benzoic acid
Stir a solution of 3,5-bis(methyl-propylcarbamoyl)-benzoic acid ethyl ester (157 mg, 0.45 mmol), 1 N lithium hydroxide (2.25 mL, 2.25 mmol) and THF (2.25 mL) for 2 h at room temperature. Dilute the reaction with water (10 mL) and extract with dichloromethane (10 mL). Acidify the aqueous with 5 N HCl, extract the aqueous with dichloromethane, dry (magnesium sulfate) and concentrate to give the title compound (119 mg, 82%).

reactant | 3,5-bis(methyl-propylcarbamoyl)-benzoic acid ethyl ester | 0.45 mmol, 157 mg | C(C)OC(C1=CC(=CC(=C1)C(N(CCC)C)=O)C(N(CCC)C)=O)=O | C19H28N2O4
reactant | lithium hydroxide | 2.25 mmol, 1 N, 2.25 mL | [OH-].[Li+]
reactant | THF | 2.25 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | 3,5-Bis(methyl-propylcarbamoyl)-benzoic acid | 119 mg, 82% | CN(C(=O)C=1C=C(C(=O)O)C=C(C1)C(N(CCC)C)=O)CCC | C17H24N2O4
